US03975310
By replacing in the above procedure cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene by cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-2-cyclohexene, trans-2.6.6-trimethyl-1-crotonoyl-2-cyclohexene was obtained which had the following characteristics: NMR spectrum: δ = 0.83 ppm, (3 H, s); 0.92 ppm, (3 H, s); 1.55 ppm, (3 H, s broad); 1.89 ppm, (d of d, J = 6.5 and 1.1 cps); 1.0-2.3 ppm (4 H, complex band); 2.77 ppm, (1 H, s broad); 5.52 ppm, (1 H, s broad); 6.18 ppm, (1 H, d of q, J = 16 cps and 1.1 cps); 6.77 ppm, (1 H, d of q, J = 16 cps and 6.5 cps).

reactant | cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(\C=C/C)O | C13H22O
reactant | cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(\C=C/C)O | C13H22O
product | trans-2.6.6-trimethyl-1-crotonoyl-2-cyclohexene | CC=1C(C(CCC1)(C)C)C(\C=C\C)=O | C13H20O
